US06034099
1(d) 3-Methyl-4-(2-propoxyphenylaminomethylene)-1-phenyl-4,5-dihydro-pyrazol-5-one (aniline addition)
3-methyl-4arninomethylene-1-phenyl-4,5-dihydro-pyrazol-5-one (2 g) and 2-propoxyanilino-trifluoroacetic acid salt (1.6 g) are refluxed 1.5 hours in ethanol.

reactant | 3-methyl-4arninomethylene-1-phenyl-4,5-dihydro-pyrazol-5-one | 2 g | CC1=NN(C(C1=CN)=O)C1=CC=CC=C1 | C11H11N3O
reactant | 2-propoxyanilino-trifluoroacetic acid | 1.6 g | C(CC)OC1=C(NOC(C(F)(F)F)=O)C=CC=C1 | C11H12F3NO3
solvent | ethanol | C(C)O | C2H6O
product | 3-Methyl-4-(2-propoxyphenylaminomethylene)-1-phenyl-4,5-dihydro-pyrazol-5-one | CC1=NN(C(C1=CNC1=C(C=CC=C1)OCCC)=O)C1=CC=CC=C1 | C20H21N3O2
